US20010006969A1
2-Chloro-7-isopropyl-4-methylaminothieno[3,2-d]pyrimidine
To 10 ml of a solution of 100 mg (0.41 mmol) of 2,4-dichloro-7-isopropylthieno[3,2-d]pyrimidine in DMF was added 40% methylamine solution in methanol under ice cooling. The reaction mixture was stirred at the same temperature for one hour and then allowed to resume room temperature, followed by stirring for further 2 hours. After completion of the reaction, ice water was added to the reaction mixture, followed by extraction with ethyl acetate (50 ml×3). After the organic layer was washed successively with 1N hydrochloric acid, water and brine and dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=½) to give 90 mg (yield: 92.0%) of the title compound.

reactant | 2,4-dichloro-7-isopropylthieno[3,2-d]pyrimidine | 0.41 mmol, 100 mg | ClC=1N=C(C2=C(N1)C(=CS2)C(C)C)Cl | C9H8Cl2N2S
reactant | methylamine | CN | CH5N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 2-Chloro-7-isopropyl-4-methylaminothieno[3,2-d]pyrimidine | 90 mg, yield: 92.0% | ClC=1N=C(C2=C(N1)C(=CS2)C(C)C)NC | C10H12ClN3S
